*$ 
* OP07
****************************************************************************
* (C) Copyright 2025 Texas Instruments Incorporated. All rights reserved.                                            
****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OP07
* Date: 10NOV2025
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SLOS099H – SEPTEMBER 1983 – REVISED MARCH 2023
* 
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
*
* Final 1.2
* 1. Updated model to match the latest PCN 20231031008.1 
*        GBW = 1.4MHz
*        UGF = 1.2MHz
*        PM  = 60-deg (58.4 deg)
*        ZO  = 42 Ohms at 1MHz
*
* Final 1.1
* 1. Updated PSpice Symbol.
* 2. Added .ENDS name as OP07.
*
* Final 1.0
* Release to Web.
* 
*****************************************************************************
* Model Usage Notes:
* 1. Model file is updated with latest header.
*****************************************************************************
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT OP07    1 2 3 4 5
*****************************************************************************
C1   11 12 4.5E-12
C2    6  7 12.50E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 147.3E6 -100E6 100E6 100E6 -100E6
GA    6  0 11 12 113.1E-6
GCM   0  6 10 99 56.69E-12
IEE  10  4 DC 7.501E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   3 11 8.841E3
RC2   3 12 8.841E3
RE1  13 10 1.943E3
RE2  14 10 1.943E3
REE  10 99 26.66E6
RO1   8  5 42
RO2   7 99 42
RP    3  4 12.04E3
VB    9  0 DC 0
VC    3 53 DC 2.900
VE   54  4 DC 2.900
VLIM  7  8 DC 0
VLP  91  0 DC 20
VLN   0 92 DC 20
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=5.357E3)
.ENDS OP07
