* TL084 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
*
* QUAD TL084 (DIP-14 Pinout)
* CONNECTIONS:   OUT A
*                | -IN A
*                | | +IN A
*                | | | VCC+
*                | | | | +IN B
*                | | | | | -IN B
*                | | | | | | OUT B
*                | | | | | | | OUT C
*                | | | | | | | | -IN C
*                | | | | | | | | | +IN C
*                | | | | | | | | | | VCC-
*                | | | | | | | | | | | +IN D
*                | | | | | | | | | | | | -IN D
*                | | | | | | | | | | | | | OUT D
*                | | | | | | | | | | | | | |
.SUBCKT TL084    1 2 3 4 5 6 7 8 9 10 11 12 13 14
X1  3 2 4 11 1  TL08X_SINGLE
X2  5 6 4 11 7  TL08X_SINGLE
X3 10 9 4 11 8  TL08X_SINGLE
X4 12 13 4 11 14 TL08X_SINGLE
.ENDS

* DUAL TL082 (DIP-8 Pinout)
* CONNECTIONS:   OUT A
*                | -IN A
*                | | +IN A
*                | | | VCC-
*                | | | | +IN B
*                | | | | | -IN B
*                | | | | | | OUT B
*                | | | | | | | VCC+
*                | | | | | | | |
.SUBCKT TL082    1 2 3 4 5 6 7 8
X1  3 2 8 4 1  TL08X_SINGLE
X2  5 6 8 4 7  TL08X_SINGLE
.ENDS

* SINGLE TL081
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL081    1 2 3 4 5
X1  1 2 3 4 5  TL08X_SINGLE
.ENDS

* SINGLE TL08X SUBCIRCUIT
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL08X_SINGLE 1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
